US06967208B2
To 5-{[2-fluoro-4-(2-oxo-1(2H)-pyridinyl)-phenyl]acetyl}-1-(4-methoxyphenyl)-1H-pyrazole-3-carbonitrile (75 mg, 0.175 mmol) was added concentrated aqueous dihydrogen sulfate (4.5 mL). After 2 h, the reaction was poured into ethyl acetate (50 mL) and water (50 mL), and the layers were separated. The organic layer was washed with saturated aqueous sodium chloride (50 mL), dried over sodium sulfate, and concentrated to dryness. The resulting residue was purified by radial chromatography (2% methyl alcohol in dichloromethane) to afford 5-{[2-fluoro-4-(2-oxo-1(2H)-pyridinyl)phenyl]acetyl}-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxamide (32 mg, 41%) as a white solid upon lyopholization from 10% acetonitrile in water. LC/MS (ESI+): 448.2 (M+H)+. 1H NMR (CD3OD) δ 7.70 (s, 1H), 7.60 (m, 2H), 7.43 (t, 1H), 7.16-7.32 (m, 4H), 6.97 (d, 2H), 6.60 (d, 1H), 6.45 (t, 1H), 4.40 (s, 2H), 3.83 (s, 3H).

reactant | 5-{[2-fluoro-4-(2-oxo-1(2H)-pyridinyl)-phenyl]acetyl}-1-(4-methoxyphenyl)-1H-pyrazole-3-carbonitrile | 0.175 mmol, 75 mg | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)CC(=O)C1=CC(=NN1C1=CC=C(C=C1)OC)C#N | C24H17FN4O3
reactant | dihydrogen sulfate | 4.5 mL | S(=O)(=O)(O)O | H2O4S
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | 5-{[2-fluoro-4-(2-oxo-1(2H)-pyridinyl)phenyl]acetyl}-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxamide | 32 mg, 41% | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)CC(=O)C1=CC(=NN1C1=CC=C(C=C1)OC)C(=O)N | C24H19FN4O4
